US04775692
An excess solution of diazomethane in ether was added to an ice-cooled and stirred solution of o-chlorobenzoic acid (7.6 g, 48.6 mmol) in 50 ml of ether. After concentration, the residue was distilled under reduced pressure to give a colorless transparent oil of methyl o-chlorobenzoate (6.0 g, 35.2 mmol, yield 72.4%, b.p. 92°-93° C./7 mmHg), which was assigned the structure by the following data:

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | o-chlorobenzoic acid | 48.6 mmol, 7.6 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | methyl o-chlorobenzoate | 35.2 mmol, 6.0 g, yield 72.4% | ClC1=C(C(=O)OC)C=CC=C1 | C8H7ClO2
